US04254116
5,5-Dimethyl-8-(2-tetradecyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(2-tetradecyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(2-tetradecyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCCCCCCCCCC)O)C=2C1=CC=NC2)C | C28H41NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(2-tetradecyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CCCCCCCCCCCC)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C37H56N2O3.ClH/c1-5-6-7-8-9-10-11-12-13-15-19-29(2)30-26-33(41-35(40)20-18-25-39-23-16-14-17-24-39)36-31-28-38-22-21-32(31)37(3,4)42-34(36)27-30;/h21-22,26-29H,5-20,23-25H2,1-4H3;1H
